US08110585B2
methyl 7-chloro-2-methyl-2H-indazole-4-carboxylate
To a solution of methyl 7-chloro-1H-indazole-4-carboxylate (5.40 g, 25.6 mmol) in ethyl acetate (150 mL) was added trimethyloxonium tetrafluoroborate (5.69 g, 38.5 mmol) at room temperature, and the mixture was stirred for 5 hr. The is reaction solution was diluted with water, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/2) to give the title compound (4.10 g, yield 71%).

reactant | methyl 7-chloro-1H-indazole-4-carboxylate | 25.6 mmol, 5.40 g | ClC1=CC=C(C=2C=NNC12)C(=O)OC | C9H7ClN2O2
reactant | trimethyloxonium tetrafluoroborate | 38.5 mmol, 5.69 g | F[B-](F)(F)F.C[O+](C)C
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl 7-chloro-2-methyl-2H-indazole-4-carboxylate | 4.10 g, yield 71% | ClC1=CC=C(C2=CN(N=C12)C)C(=O)OC | C10H9ClN2O2
